US06107291
3-Benzoyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid benzhydryloxy-amide (32 mg, 0.054 mmoL) was dissolved in a methanol:dichloromethane (3:1, 1.3 mL) mixture and cooled to 0° C. This solution was treated with sodium borohydride and stirred 5 hrs at 0 to 25° C. The solvents were removed in vacuo and the residue was reconstituted in dichloromethane. This solution was washed with 1 M aqueous HCl, and H2O, dried (Na2SO4) and concentrated. The residue was purified by flash chromatography (silica, 1.25% methanol in dichloromethane) to give 3-(hydroxy-phenyl-methyl)-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid benzhydryloxy-amide; MS: (M+H)+ 598.8, (M+NH4)+ 615.7.

reactant | 3-Benzoyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid benzhydryloxy-amide | 32 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)ONC(=O)C1N(CC=CCC1C(C1=CC=CC=C1)=O)S(=O)(=O)C1=CC=C(C=C1)OC | C34H32N2O6S
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol dichloromethane | 1.3 mL | CO.ClCCl
product | 3-(hydroxy-phenyl-methyl)-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid benzhydryloxy-amide | C(C1=CC=CC=C1)(C1=CC=CC=C1)ONC(=O)C1N(CC=CCC1C(C1=CC=CC=C1)O)S(=O)(=O)C1=CC=C(C=C1)OC | C34H34N2O6S
